US06545017B1
N′-{4-[4-amino-2-(ethoxymethyl)-7-methyl-1H-imidazo[4,5-c]pyridin-1-yl]butyl}-N,N-dimethylurea
Using the method of Examples 147-164, dimethylcarbamyl chloride was reacted with 1-(4-aminobutyl)-2-(ethoxymethyl)-7-methyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired compound. The observed accurate mass was 349.2334.

reactant | dimethylcarbamyl chloride | CN(C(=O)Cl)C | C3H6ClNO
reactant | 1-(4-aminobutyl)-2-(ethoxymethyl)-7-methyl-1H-imidazo[4,5-c]pyridin-4-amine | NCCCCN1C(=NC=2C(=NC=C(C21)C)N)COCC | C14H23N5O
product | N′-{4-[4-amino-2-(ethoxymethyl)-7-methyl-1H-imidazo[4,5-c]pyridin-1-yl]butyl}-N,N-dimethylurea | NC1=NC=C(C2=C1N=C(N2CCCCNC(N(C)C)=O)COCC)C | C17H28N6O2
